US09108952B2
Step 4: Preparation of N-(4-chloro-2-(pyridin-3-yl)thiazol-5-yl)-N,2-dimethyl-3-(methylthio)propanamide
To a dry 500 ml round bottom flask equipped with magnetic stirrer, thermometer, and nitrogen inlet was added 4-chloro-N-methyl-2-(pyridin-3-yl)thiazol-5-amine (22 g, 97 mmol) and dichloromethane (250 mL). The suspension was stiffed at room temperature while pyridine (8.48 g, 107 mmol) and DMAP (1.20 g, 9.75 mmol) were added. To this suspension was added 2-methyl-3-(methylthio)propanoyl chloride (17.8 g, 117 mmol) over 5 minutes. During the addition all solids went into solution and the reaction was exothermic from 20° C. to 30° C. The reaction was stirred at ambient temperature for 16 h. The mixture was checked by HPLC(YMC AQ column 5% ACN 95% water-0.05% TFA to 95% ACN 5% water with 0.05% TFA over 20 Min @ 1.0 ml/min) which showed complete conversion of all starting material. The reaction mixture was diluted with dichloromethane and water was then added. The mixture was poured into a separatory funnel with dichloromethane and water and the layers separated. The organic phase was washed with brine, dried over anhydrous magnesium sulfate, filtered, and rotary evaporated to afford 33.6 g of a dark oil. The oil was purified on an ISCO Combiflash Rf (330 g silica gel cartridge, mobile phase A=hexane, B=ethyl acetate, gradient 0% B to 100% B over 20 minutes). The fractions were collected into 25 mL test tubes. The tubes containing the desired product were combined and the solvent removed by rotary evaporation. This afforded 22.8 g of a thick yellow liquid in 68.4% isolated yield. The entire sample crystallized and hexane (200 mL) was added to give a slurry. The slurry was vacuum filtered and the solid allowed to air dry. This gave N-(4-chloro-2-(pyridin-3-yl)thiazol-5-yl)-N,2-dimethyl-3-(methylthio)propanamide as an off-white solid; mp 75-80° C.; 1H NMR (400 MHz, CDCl3) δ 9.12 (d, J=1.4 Hz, 1H), 8.73 (d, J=3.8 Hz, 1H), 8.34-8.09 (m, 1H), 7.43 (dd, J=7.9, 4.9 Hz, 1H), 3.30 (s, 3H), 3.06-2.70 (m, 2H), 2.49 (d, J=7.4 Hz, 1H), 2.04 (s, 3H), 1.21 (d, J=6.4 Hz, 3H); 13C NMR (101 MHz, DMSO-d6) δ 175.22, 162.37, 151.91, 146.53, 136.46, 134.64, 133.35, 127.98, 124.27, 37.47, 36.71, 36.47, 17.56, 15.44; Anal. Calcd. for C14H16ClN3OS2: C, 49.18; H, 4.72; N, 12.29; S, 18.76. Found: C, 49.04: H, 4.68; N, 12.29; S, 18.68.

reactant | 4-chloro-N-methyl-2-(pyridin-3-yl)thiazol-5-amine | 97 mmol, 22 g | ClC=1N=C(SC1NC)C=1C=NC=CC1 | C9H8ClN3S
reactant | pyridine | 107 mmol, 8.48 g | N1=CC=CC=C1 | C5H5N
reactant | 2-methyl-3-(methylthio)propanoyl chloride | 117 mmol, 17.8 g | CC(C(=O)Cl)CSC | C5H9ClOS
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | DMAP | 9.75 mmol, 1.20 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | ACN | C(C)#N | C2H3N
product | N-(4-chloro-2-(pyridin-3-yl)thiazol-5-yl)-N,2-dimethyl-3-(methylthio)propanamide | 33.6 g | ClC=1N=C(SC1N(C(C(CSC)C)=O)C)C=1C=NC=CC1 | C14H16ClN3OS2
